US06121258
N-Hydroxy 1-benzyl-3-[(4Methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine4(R-carboxamide (1f): A mixture of N-benzyloxy 1-benzyl-3-[(4-Methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine-4(R)-carboxamide (213 mg, 0.4 mmol) and 10% Pd/C (50 mg) in methanol (25 mL) is stirred under hydrogen atmosphere for 3 hours. The mixture is filtered over celite and the filtrate is collected and concentrated under reduced pressure to give an oil. The crude product is purified by flash silica gel chromatography (200:1 ethyl acetate-formic acid) to give N-hydroxy 1-benyl-3-[(4-methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine-4(R)-carboxamide as a white solid. MS (ESI): 420 (M+H+), 437 (M+NH4+).

reactant | N-benzyloxy 1-benzyl-3-[(4-Methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine-4(R)-carboxamide | 0.4 mmol, 213 mg | C(C1=CC=CC=C1)ONC(=O)[C@@H]1N(CN(C(C1)=O)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C26H27N3O6S
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N-hydroxy 1-benyl-3-[(4-methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine-4(R)-carboxamide | ONC(=O)[C@@H]1N(CN(C(C1)=O)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C19H21N3O6S
